US07820665B2
To a round-bottom flask, was added 5-bromo-2-chloropyridin-3-amine (0.2 g, 1.0 mmol, Asymchem Laboratories, Morrisville, N.C.) in THF (10 mL). To this solution, sodium bis(trimethylsilyl)amide (1M in THF, 3 mL, 3 mmol, Aldrich, St. Louis, Mo.) was added and the mixture was stirred for 5 minutes. Then 2-chloro-4-fluorobenzene-1-sulfonyl chloride (0.7 g, 3 mmol, Aldrich, St. Louis, Mo.) was added to the mixture and the suspension was stirred at 25° C. for 15 h. The mixture was diluted with H2O. The organic layer was collected by extracting the water with DCM (3×). The combined organic was dried over sodium sulfate and concentrated in vacuo. Purification by silica gel chromatography (1 to 30% EtOAc/CH2Cl2) gave N-(5-bromo-2-chloropyridin-3-yl)-2-chloro-4-fluorobenzenesulfonamide (0.190 g, 49% yield) as a tan oil. MS (ESI positive ion) m/z: 401 (M+1).

reactant | 5-bromo-2-chloropyridin-3-amine | 1.0 mmol, 0.2 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | sodium bis(trimethylsilyl)amide | 3 mmol, 1M, 3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-chloro-4-fluorobenzene-1-sulfonyl chloride | 3 mmol, 0.7 g | ClC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3Cl2FO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | N-(5-bromo-2-chloropyridin-3-yl)-2-chloro-4-fluorobenzenesulfonamide | 0.190 g, 49% yield | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=C(C=C(C=C1)F)Cl | C11H6BrCl2FN2O2S
